* ============================================================================
*  CAN FD bus signal-integrity model -- two motors + junction(stub) scenario
*  ============================================================================
*  Hardware reference: ragtime_florid / dm_mc02 FDCAN
*    arbitration 1 Mbps (bit=1000ns)  /  data 5 Mbps (bit=200ns)
*    twisted pair diff Z0=120 ohm, velocity factor vf~0.78
*
*  Topology (default: daisy chain + Motor1 via stub at junction):
*
*            RTERM_A=120
*        +---[CAN_A]---(trunk)---[CAN_J]---(seg2)---[CAN_M2]---+
*        |   VDRV->RSRC                       |              RTERM_M2=120
*    [BOARD]                              [stub]
*                                            |
*                                        [CAN_M1] (motor1, stub/open end)
*
*   - Motor2(CAN_M2) = far end of bus, terminated 120R  (daisy chain end)
*   - Motor1(CAN_M1) = branches at Junction, NOT terminated (stub, reflector)
*
*  Run: psp_cmd.exe this file (workdir = this dir); Probe for waveforms
*  Sweep: .STEP PARAM S_STUB ... to see stub length effect at 5Mbps data phase
*
*  NOTE node naming: PSpice 17.4 rejects V(name) refs for nodes starting with
*  A B J K M N P Q T U X Z or "_". All nodes here start with "CAN_" (C=safe).
*  NOTE T elements break node-based .PRINT in 17.4 -> 1Meg probe resistors +
*  device refs only (see probe section).
* ============================================================================

* ---- parameters (SI units, lengths in meters; NOTE: bare number = meter,
*      "1.0m" in SPICE = 1 millimeter!) --------------------------------------
.PARAM L_TRUNK=1.0     ; board-to-junction trunk length [m]
.PARAM L_SEG2 =1.5     ; junction-to-motor2 trunk length [m]
.PARAM S_STUB =0.3     ; stub length to motor1 [m], the swept variable
.PARAM TDPM   =4.27n   ; per-meter delay = 1/(0.78*c) = 4.27ns/m
.PARAM RS_SRC =60      ; transmitter dominant output impedance (typical CAN)
.PARAM R_LOAD =20k     ; receiver input impedance (differential)
.PARAM C_LOAD =15p     ; receiver/connector input capacitance

* ---- source: board transceiver ---------------------------------------------
*  10 bit data-phase sequence "1101000110", dominant=2V diff / recessive=0V
*  5 Mbps: bit=200ns, edge 15ns; 3 consecutive recessive then single
*  dominant is the worst reflection case
VDRV CAN_SRC 0 PWL(
+  0    0
+  15n  2      ; bit0 = 1
+  400n 2
+  415n 0      ; bit2 = 0
+  600n 0
+  615n 2      ; bit3 = 1
+  800n 2
+  815n 0      ; bit4 = 0
+  1000n 0
+  1200n 0
+  1400n 0
+  1415n 2     ; bit7 = 1  <-- 000 then single dominant, worst reflection
+  1600n 2
+  1800n 2
+  1815n 0     ; bit9 = 0
+  2.2u 0)
RSRC CAN_SRC CAN_A {RS_SRC}

* ---- terminators ------------------------------------------------------------
RTERM_A  CAN_A 0 120       ; board-side termination 120R
RTERM_M2 CAN_M2 0 120      ; far-end (motor2) termination 120R

* ---- transmission lines (lossless T element, Z0=120, TD=len*per-meter) -----
T_TRUNK CAN_A 0 CAN_J 0 Z0=120 TD={L_TRUNK*TDPM}
T_SEG2  CAN_J 0 CAN_M2 0 Z0=120 TD={L_SEG2 *TDPM}
T_STUB  CAN_J 0 CAN_M1 0 Z0=120 TD={S_STUB *TDPM}

* ---- Motor1 (stub/open end) receiver load ----------------------------------
RM1 CAN_M1 0 {R_LOAD}
CM1 CAN_M1 0 {C_LOAD}

* ---- Motor2 (terminated end) receiver load ----------------------------------
RM2 CAN_M2 0 {R_LOAD}
CM2 CAN_M2 0 {C_LOAD}

* ---- probe resistors: with T elements present only DEVICE refs work in .PRINT
RP_B  CAN_SRC 0 1Meg
RP_A  CAN_A   0 1Meg
RP_J  CAN_J   0 1Meg
RP_M1 CAN_M1  0 1Meg
RP_M2 CAN_M2  0 1Meg

* ---- simulation control -----------------------------------------------------
* default single run: watch CAN_A / CAN_J / CAN_M1 / CAN_M2 waveforms
.TRAN 0.1n 2.5u
.PROBE

* ---- stub length sweep (uncomment to enable; 0..3m step 0.25m) --------------
* .STEP PARAM S_STUB 0 3 0.25
* .TRAN 0.1n 2.5u

* ---- worst-case check via Probe (interactive) -------------------------------
* 5Mbps RX criterion: dominant must be > 0.9V (threshold 0.5V + margin),
* recessive should return to 0.
*  NOTE: PSpice has NO .MEAS/.MEASURE dot command (HSPICE/LTspice/ngspice
*  family only) -- use Probe>Trace>Evaluate Measurement or the .PRINT dump.
.PRINT TRAN V(RP_B) V(RP_A) V(RP_J) V(RP_M1) V(RP_M2)

* ============================================================================
* Alt: 1 Mbps arbitration rate (bit=1000ns) -- replace VDRV lines below
*  VDRV CAN_SRC 0 PWL(
* + 0 0  75n 2  2000n 2  2075n 0  3000n 0  3075n 2  4000n 2  4075n 0
* + 5000n 0  6000n 0  7000n 0  7075n 2  8000n 2  9000n 2  9075n 0  11u 0)
*
* Alt: star double stub (both motors branch at Junction) -- replace
*  T_SEG2/T_STUB with:
*  T_STUB1 CAN_J 0 CAN_M1 0 Z0=120 TD={S_STUB*TDPM}   ; motor1 stub
*  T_STUB2 CAN_J 0 CAN_M2 0 Z0=120 TD={S_STUB*TDPM}   ; motor2 stub (can add RTERM)
*  RTERM_M2 CAN_M2 0 120
* ============================================================================
.END