* TCAN1042-Q1 CAN FD transceiver -- PSpice behavioral model
* Converted from TI TINA-TI macro 'TCAN1042-Q1.TSM' (SLLM403)
*   (C) Texas Instruments. Original TINA macro: https://www.ti.com/lit/zip/sllm403
* Conversion: TINA 'VALUE = {..}' -> PSpice 'VALUE {..}'. No circuit change.
*
* Usage: .lib 'TCAN1042_q1_pspice.lib'
* Instance pins (order matters):
*   X1 <TXD> <STB> <RXD> <CANH> <CANL> <VCC> <GND> TCAN1042
* Drive TXD low (0V) = dominant  /  high (3.3/5V) = recessive
* Receiver: RXD low = dominant when (CANH-CANL) >= 0.9V
* STB low = normal mode.
*
.SUBCKT TCAN1042 TXD STB RXD CANH CANL VCC GND
XU8         TXD TXDint STB STBint VCC GND BUF_0
XU7         Muxout RXD VCC GND LOGIC_IO_0
C3          RXDint2 GND 1P 
C2          RXDint1 GND 1P 
XU6         RXDint1 RXDint2 STB Muxout VCC GND MUX2X1_0
XU2         STB CANH CANL RXDint2 VCC GND LPRCVR_0
XU1         STB CANH CANL RXDint1 VCC GND HSRCVR_0
XU5         VCC Precanhigh Precanlow canh1 canl1 GND DRVRCAN_0
XU4         TXDint STBint Precanhigh Precanlow VCC GND PREDRIVER_0
XU3         STB canh1 canl1 CANH CANL GND STBMODE_0
.ENDS TCAN1042

.SUBCKT BUF_0  TXD TXDINT STB STBINT VDD VSS
CINTXD TXD VSS 5P
X_SHITXD TXD VSS VDD TXDINT SHI
X_SLOTXD TXD VSS VSS TXDINT SLO
X_SHISTB STB VSS VDD STBINT SHI
X_SLOSTB STB VSS VSS STBINT SLO
.ENDS BUF_0 
*$
.SUBCKT SHI 1 2 3 4
S_HI 3 4 1 2 SHIGH
R 1 2 1E9
.MODEL SHIGH VSWITCH ROFF=1E6 RON=1 VON=2.0 VOFF=0.8
.ENDS SHI
*$
.SUBCKT SLO 1 2 3 4
S_LO 3 4 1 2 SLOW
R 1 2 1E9
.MODEL SLOW VSWITCH ROFF=1E6 RON=1 VON=0.8 VOFF=2.0
.ENDS SLO
*$


.SUBCKT LOGIC_IO_0  INP RXD VDD VSS
X_SHI INP VSS VDD RXD SHI_logic
X_SLO INP VSS VSS RXD SLO_logic
.ENDS LOGIC_IO_0 
*$
.SUBCKT SHI_logic 1 2 3 4
S_HI 3 4 1 2 SHIGH
R 1 2 1E9
.MODEL SHIGH VSWITCH ROFF=1E6 RON=200 VON=2.0 VOFF=0.8
.ENDS SHI_logic
*$
.SUBCKT SLO_logic 1 2 3 4
S_LO 3 4 1 2 SLOW
R 1 2 1E9
.MODEL SLOW VSWITCH ROFF=1E6 RON=100 VON=0.8 VOFF=2.0
.ENDS SLO_logic
*$


*********************************************
*     IDEAL MUX2X1 MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************

.SUBCKT MUX2X1_0  RXDINT1 RXDINT2 STB OUT VDD VSS
X_NOT_0 VDD STB STBN VSS NOT_0
X_AND_0 STBN RXDINT1 OUT1 VDD VSS AND_0
X_AND_1 STB RXDINT2 OUT2 VDD VSS AND_0
X_OR_0 OUT1 OUT2 OUT VDD VSS OR_0
.ENDS MUX2X1_0 

*********************************************
*     IDEAL NOT GATE MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************
.SUBCKT NOT_0  VDD VI VO VSS 

ESLICE VO 0  VALUE {IF(V(VI)>V(VCM),V(VSS),V(VDD))}
ECM  VCM  0  VALUE {(V(VDD,0)+V(VSS,0))*0.5}

.ENDS NOT_0

*********************************************
*     IDEAL AND GATE MODEL
*     TEXAS INSTRUMENTS INC.
*********************************************
.SUBCKT AND_0 A B Y VDD VSS
EA  VA  0  VALUE {IF(V(A)>V(VCM),1,0)}
EB  VB  0  VALUE {IF(V(B)>V(VCM),1,0)}
ECM  VCM  0  VALUE {(V(VDD,0)+V(VSS,0))*0.5}

EY  Y  0  VALUE {IF((V(VA)>0.5) & (V(VB)>0.5),V(VDD),V(VSS))}

.ENDS AND_0

*********************************************
*     IDEAL OR GATE MODEL
*     TEXAS INSTRUMENTS INC.
*********************************************
.SUBCKT OR_0 A B Y VDD VSS

EA  VA  0  VALUE {IF(V(A)>V(VCM),1,0)}
EB  VB  0  VALUE {IF(V(B)>V(VCM),1,0)}
ECM  VCM  0  VALUE {(V(VDD,0)+V(VSS,0))*0.5}

EY  Y  0  VALUE {IF((V(VA)>0.5) | (V(VB)>0.5),V(VDD),V(VSS))}

.ENDS OR_0


*********************************************
*      LOWPOWER RECEIVER MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************

.SUBCKT LPRCVR_0  STB CANH CANL RXDINT2 VDD VSS
*CINH CANH VSS 24E-12
*RINH CANH VSS 28E3
*CINL CANL VSS 24E-12
*RINL CANL VSS 28E3
RID CANH CANL 54E3
CID CANH CANL 12E-12
X_RECV CANH CANL RXDINT VDD VSS RECVLP
X_S1 STB VSS RXDINT RXDINT2 STB_SRECEIVER
.ENDS LPRCVR_0 
*$

.SUBCKT RECVLP A B Y VDD VSS
EY Y VSS  VALUE {IF(V(A,B)>=0.9,V(VSS),V(VDD))}
*ESLICE VO 0  VALUE {IF(V(VI)>V(VCM),V(VSS),V(VDD))}
.ENDS RECVLP
*$

.SUBCKT STB_SRECEIVER 1 2 3 4 
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=1E12 RON=1000 VOFF=0.8 VON=2.0
.ENDS STB_SRECEIVER
*$
*
*  CANH       |\               STB
*-------------|+\               |
*        ^    |  \              |
*        |    |   \             |/
*        |    |LP  \   RXDINT   /
*       VID   |RECVR\-----------  ------RXDINT2
*        |    |     /     STB_SRECEIVER
*        |    |    /
*        V    |   /
*-------------|- /
*  CANL       | /
*             |/
*$


*********************************************
*      HIGHSPEED RECEIVER MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************

.SUBCKT HSRCVR_0  STB CANH CANL RXDINT1 VDD VSS
*CINH CANH VSS 24E-12
*RINH CANH VSS 28E3
*CINL CANL VSS 24E-12
*RINL CANL VSS 28E3
RID CANH CANL 55E3
CID CANH CANL 12E-12
X_RECV CANH CANL RXDINT VDD VSS RECV
X_S1 STB VSS RXDINT RXDINT1 STB_S1
.ENDS HSRCVR_0 
*$

.SUBCKT RECV A B Y VDD VSS
EY Y VSS  VALUE {IF(V(A,B)>=0.9,V(VSS),V(VDD))}
*ESLICE VO 0  VALUE {IF(V(VI)>V(VCM),V(VSS),V(VDD))}
.ENDS RECV
*$

.SUBCKT STB_S1 1 2 3 4 
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=1E12 RON=1K VOFF=2.0 VON=0.8
.ENDS STB_S1
*$
*
*  CANH       |\               STB
*-------------|+\               |
*        ^    |  \              |
*        |    |   \             |/
*        |    |    \   RXDINT   /
*       VID   |     \-----------  ------RXDINT1
*        |    |     /         STB_S1
*        |    |    /
*        V    |   /
*-------------|- /
*  CANL       | /
*             |/
*$


.SUBCKT DRVRCAN_0  VDD PRECANHIGH PRECANLOW CANH CANL VSS
X_CANH PRECANHIGH CANH VDD CANH_DRV
X_CANL PRECANLOW CANL VSS CANL_DRV
.ENDS DRVRCAN_0 
*$
.SUBCKT CANH_DRV PRECANHIGH CANH VDD
X_S1 PRECANHIGH 0 VDD CANH CANH_S1
.ENDS CANH_DRV
*$
.SUBCKT CANH_S1 1 2 3 4 
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=25E03 RON=36.3 VOFF=2.5 VON=0.8
.ENDS CANH_S1
*$
.SUBCKT CANL_DRV PRECANLOW CANL GND
X_S1 PRECANLOW GND GND CANL CANL_S1
.ENDS CANL_DRV
*$
.SUBCKT CANL_S1 1 2 3 4
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=25E03 RON=36.8 VOFF=0.8 VON=2.5
.ENDS CANL_S1
*$


*********************************************
*      PREDRIVER MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************
.SUBCKT PREDRIVER_0  TXD STB PRECANHIGH PRECANLOW VDD VSS
X_OR0 TXD STB PRECANHIGH VDD VSS OR_0
X_NOT0 VDD PRECANHIGH PRECANLOW VSS NOT_0
.ENDS PREDRIVER_0 

*********************************************
*     IDEAL NOT GATE MODEL 
*     TEXAS INSTRUMENTS INC.
*********************************************
*.SUBCKT NOT_0  VDD VI VO VSS 

*ESLICE VO 0  VALUE {IF(V(VI)>V(VCM),V(VSS),V(VDD))}
*ECM  VCM  0  VALUE {(V(VDD,0)+V(VSS,0))*0.5}
*
*.ENDS NOT_0

*********************************************
*     IDEAL OR GATE MODEL
*     TEXAS INSTRUMENTS INC.
*********************************************
*.SUBCKT OR_0 A B Y VDD VSS
*
*EA  VA  0  VALUE {IF(V(A)>V(VCM),1,0)}
*EB  VB  0  VALUE {IF(V(B)>V(VCM),1,0)}
*ECM  VCM  0  VALUE {(V(VDD,0)+V(VSS,0))*0.5}

*EY  Y  0  VALUE {IF((V(VA)>0.5) | (V(VB)>0.5),V(VDD),V(VSS))}

*.ENDS OR_0


.SUBCKT STBMODE_0  STB CANH1 CANL1 CANH CANL VSS

X_S1 STB VSS CANH1 CANH STB_S1STBMODE_0
X_S2 STB VSS CANH VSS STBGND_S2STBMODE_0
X_S3 STB VSS CANL1 CANL STB_S1STBMODE_0
X_S4 STB VSS CANL VSS STBGND_S2STBMODE_0

.ENDS STBMODE_0 
*$

.SUBCKT STB_S1STBMODE_0 1 2 3 4 
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=18E09 RON=0.2 VOFF=2.0 VON=0.8
.ENDS STB_S1STBMODE_0
*$

.SUBCKT STBGND_S2STBMODE_0 1 2 3 4
S_S1 3 4 1 2 _S1
RS_S1 1 2 1G
.MODEL _S1 VSWITCH ROFF=18E09 RON=1 VOFF=0.8 VON=2.0
.ENDS STBGND_S2STBMODE_0
*$
*          /
*         /
*H1/L1----  -------H/L
*         S1   |
*              |
*               /
*           S2 /
*             |
*             |
*            GND
*

